US07662812B2
3-(6-Iodo-pyridazin-3-yl)-9-methyl-9-aza-bicyclo[3.3.1]nonane free base (Intermediate compound; JBP 18097-a)
A mixture of 9-methyl-3,9-diazabicyclo[3.3.1]nonane (4.0 g, 28.5 mmol), 3,6-diiodopyridazine (9.5 g, 28.5 mmol), diisopropylethylamine (7.4 g, 57.0 mmol) and dioxane (50 ml) was stirred at 75° C. for 4 days. Aqueous sodium hydroxide (75 ml, 1 M) was added, dioxane was evaporated and the mixture was extracted twice with dichloromethane (2×75 ml). Chromatography on silica gel with dichloromethane, 10% methanol and 1% aqueous ammonia as solvent gave the title compound. Yield 4.61 g (47%). Mp. 163-166° C.

reactant | 9-methyl-3,9-diazabicyclo[3.3.1]nonane | 28.5 mmol, 4.0 g | CN1C2CNCC1CCC2 | C8H16N2
reactant | 3,6-diiodopyridazine | 28.5 mmol, 9.5 g | IC=1N=NC(=CC1)I | C4H2I2N2
reactant | diisopropylethylamine | 57.0 mmol, 7.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydroxide | 1 M, 75 ml | [OH-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-(6-Iodo-pyridazin-3-yl)-9-methyl-9-aza-bicyclo[3.3.1]nonane | IC1=CC=C(N=N1)C1CC2CCCC(C1)N2C | C13H18IN3
